US06329392B1
1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-[1-(pyrid-3-ylmethyl)-1H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-phenyl-pyrrolidine
Combine 1-(3,4,5-trimethoxy-benzoyl)-3-[2-[4-[1H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-phenyl-pyrrolidine (710 mg, 1.19 mmol), 3-(chloromethyl)pyridine hydrochloride (794 mg, 4.84 mmol), potassium carbonate (1.337 g, 9.67 mmol) in acetone (21 mL) and water (7 mL). Stir and heat at reflux for 24 h. Allow reaction mixture to cool to room temperature, and remove the acetone under vacuum. Add ethyl acetate to the reaction mixture and separate the organic layer. Extract the organic layer with saturated aqueous NaCl solution, dry over anhydrous Na2SO4, filter and concentrate in vacuo. Chromatograph the residue on silica gel eluting with 30% methanol/ethyl acetate to give the title compound: Rf=0.16 (silica gel, 20% methanol/ethyl acetate)]. Elemental Analysis calculated for C41H44N5O5: C 71.59; H 6.59; N 10.18; Found: C 69.84; H 6.75; N 9.82.

reactant | 1-(3,4,5-trimethoxy-benzoyl)-3-[2-[4-[1H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-phenyl-pyrrolidine | 1.19 mmol, 710 mg | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCC(CC2)C(=O)C2=NC3=C(N2)C=CC=C3)C=C(C1OC)OC | C35H40N4O5
reactant | 3-(chloromethyl)pyridine hydrochloride | 4.84 mmol, 794 mg | Cl.ClCC=1C=NC=CC1
reactant | potassium carbonate | 9.67 mmol, 1.337 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 21 mL | CC(=O)C | C3H6O
solvent | water | 7 mL | O | H2O
product | 1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-[1-(pyrid-3-ylmethyl)-1H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-phenyl-pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCC(CC2)C(=O)C2=NC3=C(N2CC=2C=NC=CC2)C=CC=C3)C=C(C1OC)OC | C41H45N5O5
